data/mechanisms/records/IMS9-EQ9.31a.json
{"mechanism_id": "IMS9-EQ9.31a", "species": [{"species_id": "methyl_stearate_molecular_ion", "mapped_smiles": "[CH3:18][CH2:17][CH2:16][CH2:15][CH2:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][CH2:6][CH2:5][CH2:4][CH2:3][CH2:2][C:1](=[O+:19])[O:20][CH3:21]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "stearoyl_cation_mz267", "mapped_smiles": "[CH3:18][CH2:17][CH2:16][CH2:15][CH2:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][CH2:6][CH2:5][CH2:4][CH2:3][CH2:2][C:1]#[O+:19]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methoxy_radical", "mapped_smiles": "[O:20][CH3:21]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "heptadecyl_cation_mz239", "mapped_smiles": "[CH3:18][CH2:17][CH2:16][CH2:15][CH2:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][CH2:8][CH2:7][CH2:6][CH2:5][CH2:4][CH2:3][CH2+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "carbon_monoxide", "mapped_smiles": "[C-:1]#[O+:19]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methyl_stearate_molecular_ion"]}, {"state_id": "state_mz267", "species_ids": ["stearoyl_cation_mz267", "methoxy_radical"]}, {"state_id": "state_mz239", "species_ids": ["heptadecyl_cation_mz239", "carbon_monoxide", "methoxy_radical"]}], "steps": [{"step_id": "step_alpha_methoxy_loss", "from_state": "state_precursor", "to_state": "state_mz267", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [19]}, "target": {"type": "bond", "atom_maps": [1, 19]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 20]}, "target": {"type": "bond", "atom_maps": [1, 19]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 20]}, "target": {"type": "atom", "atom_maps": [20]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_inductive_co_loss", "from_state": "state_mz267", "to_state": "state_mz239", "step_class": "carbon_monoxide_elimination", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_methoxy_loss", "support_type": "textbook_proposed", "locator": {"page": 252, "equation": "9.31", "figure": null, "panel": null, "section": "9.4 Esters, 'Aliphatic methyl esters' (upper arrow labelled alpha)"}, "confidence": 0.8, "curator_note": "The arrow labelled 'alpha'. Radical-site cleavage of the C1-O20 (acyl-oxygen) bond expelling the METHOXY RADICAL and leaving the stearoyl cation the page draws as 'C17H35-CO+', labelled m/z 267 = (M - 31)+. Book draws 0 arc(s) on the molecular ion, so all three moves are curator-supplied: the canonical radical-site triple -- the O19 odd electron into the C1-O19 bond (raising C=O to the C#O+ of an acylium, encoded '[C:1]#[O+:19]' as in IMS9-EQ9.27a and IMS9-EQ9.30), one electron of the breaking C1-O20 bond into that same bond, and the second leaving on O20 with the methoxy radical. The prose confirms the pairing: 'alpha-cleavage gives characteristic (M - 31)+ and 59+ ions' -- (M - 31)+ is this record's m/z 267 and 59+ is IMS9-EQ9.31d. SUBSTRATE AND ITS INSTANTIATION (convention F): the page draws the condensed formula 'C17H35-C(=O)-OCH3' with '+.' printed above the carbonyl oxygen and labels it 'm/z 298'. That printed mass is what fixes the chain: C17H35COOCH3 = C19H38O2, computed M+. = 298.2866, i.e. METHYL OCTADECANOATE (methyl stearate). The chain is written out atom by atom in this record, so the condensed label is instantiated, not guessed -- and it is cross-checked by the page's other four labels (267, 239, 59, 31), each of which matches the computed exact mass of the structure encoded here. NB the surrounding prose names OTHER examples (Figure 3.13 is methyl n-undecanoate), so the prose alone would give the wrong homolog; the m/z labels govern. ATOM MAPS: 1 = the carbonyl carbon, 2 = the alpha carbon, 3..18 = the rest of the chain (18 = the terminal methyl), 19 = the carbonyl oxygen (the ionised one), 20 = the ester (saturated) oxygen, 21 = the methoxy carbon. The IMS9-EQ9.32 records use the SAME numbering for the SAME compound (plus 22 for the migrating gamma-hydrogen), so the two equations can be read together. ARC COUNT (convention D), measured at 9x on the native 1760x2560 scan: the molecular ion carries ZERO curved arrows, and the whole equation contains only TWO -- one on the m/z 267 acylium and one on the m/z 59 acylium, both full (solid, double-barbed, two-electron) arrows. So all FOUR channels leaving the molecular ion are conveyed by a reaction-type label alone and their moves are entirely curator-supplied."}, {"evidence_id": "evidence_step_co_loss", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_co_loss", "support_type": "textbook_proposed", "locator": {"page": 252, "equation": "9.31", "figure": null, "panel": null, "section": "9.4 Esters (arrow labelled 'i' from m/z 267 to m/z 239)"}, "confidence": 0.85, "curator_note": "The 'i' arrow leaving m/z 267 -- and ONE OF ONLY TWO ARCS IN THE EQUATION. Measured at 9x: a full, solid, double-barbed curved arrow whose TAIL descends onto the C17H35-CO bond and whose HEAD lands on the carbon of 'CO+'. Encoded as exactly that single two-electron move, the C1-C2 pair migrating onto C1: it expels neutral carbon monoxide and leaves the charge on C2, the '(C17H35+)' the page prints at m/z 239. Since the precursor is an EVEN-electron acylium this is a true two-electron step with no fishhooks (the IMS9-EQ9.26b and IMS9-EQ9.30a precedent), and CO is written '[C-:1]#[O+:19]', the standard RDKit form used there. The arrow-check emits one soft line, 'atom 1 ... consistent with a lone pair rather than radicals': the migrating pair becomes CO's carbon lone pair, which is correct. NOTE THE PAGE REACHES m/z 239 BY TWO DRAWN ROUTES -- this two-step one and the direct 'i' arrow from the molecular ion, which is IMS9-EQ9.31b (the same two-routes-to-one-mass situation as IMS9-EQ9.26b/c). The methoxy radical from step 1 is carried forward in this state as an already-lost neutral so the step stays atom-balanced (the IMS9-EQ9.25b convention). PRODUCT-FORM DISCLOSURE for m/z 239: the page writes it as the condensed label '(C17H35+)', which fixes the FORMULA but not the isomer. It is encoded as the PRIMARY carbenium that the drawn bond cleavage produces, +CH2-C16H33, because that is what the arrows give; a primary cation of this size would in reality rearrange to a secondary/tertiary one before or during detection, and the book's own parentheses plus 'very small' say it is a minor ion. The label is faithful; the isomer is the curator's minimal reading of it. MEASUREMENTS (convention F): the page labels m/z 298, 267, 239, 59 and 31, and every one matches the exact mass computed from the encoded structures (298.2866, 267.2682, 239.2733, 59.0128, 31.0178 -- RDKit ExactMolWt, which already applies the formal charge). Peak assignments store those computed values with status 'proposed', the convention for a book-labelled m/z (IMS9-EQ9.22, IMS9-EQ9.19a). No percentage is printed anywhere in the equation, so no relative_intensity is stored. THE PAGE'S PARENTHESES ARE A JUDGEMENT, AND THEY ARE RECORDED AS ONE: 'm/z 267' and 'm/z 59' are printed bare, while the other two products are printed as '(C17H35+)' and '(+OCH3)' -- in parentheses. The prose says why: 'The (M - 59)+ alkyl ion and the CH3O+ ion are very small except for low-molecular-weight esters.' So the parentheses mark the weak channels. That is not a number, so per convention F no relative_intensity is stored anywhere in this equation; it is reported here. NOT ENCODED, and recorded so the gap is not read as a miss: the page's last arrow runs from m/z 239 to 'CnH2n+1+, CnH2n-1+' -- generic ION SERIES labels, not structures, with no mechanism, no n and no arcs. Transcribing it would mean inventing both connectivity and electron flow, the same reason eq 9.5 and Table 8.4 were excluded. The prose that licenses it: 'Further decomposition of the alkyl moiety produces the characteristic CnH2n+1+ and CnH2n-1+ ion series.'"}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 298.2866, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_298", "species_id": "methyl_stearate_molecular_ion", "step_id": null, "observed_mz": 298.2866, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}, {"peak_id": "peak_267", "species_id": "stearoyl_cation_mz267", "step_id": "step_alpha_methoxy_loss", "observed_mz": 267.2682, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}, {"peak_id": "peak_239", "species_id": "heptadecyl_cation_mz239", "step_id": "step_inductive_co_loss", "observed_mz": 239.2733, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-11T00:00:00Z", "modified_at": "2026-08-11T00:00:00Z"}}
